US04147790
Using the procedure of Example 2, 3-(4-chlorobenzoyl)-2-methylbenzene hexanoic acid was reacted with thionyl chloride to form 3-(4-chlorobenzoyl)-2-methyl-benzenehexanoic acid chloride which was then reacted with 4-(3-trifluoromethylphenyl)-1-piperazinyl-ethanol followed by hydrochloric acid to obtain 2-[4-(3-trifluoromethylphenyl)-1-piperazinyl]-ethyl 3-(4-chlorobenzoyl)-2-methyl-benzenehexanoate hydrochloride melting at 108° C.

reactant | 3-(4-chlorobenzoyl)-2-methylbenzene hexanoic acid | ClC1=CC=C(C(=O)C=2C(=C(C=CC2)CCCCCC(=O)O)C)C=C1 | C20H21ClO3
reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
product | 3-(4-chlorobenzoyl)-2-methyl-benzenehexanoic acid chloride | ClC1=CC=C(C(=O)C=2C(=C(C=CC2)CCCCCC(=O)Cl)C)C=C1 | C20H20Cl2O2
